US06992087B2
A solution of methyl {[N-(tert-butoxycarbonyl)-L-alanyl]amino}(cyclopropyl)-acetate (72 mg, 0.24 mmol) in 4 N HCl in dioxane (1 mL) was stirred at rt for 45 min. Concentrate to afford 57 mg (100%) of methyl (L-alanylamino)(cyclopropyl)acetate hydrochloride as a solid: 1H NMR (DMSO-d6) δ 0.42-0.60, 1.21-1.26, 1.68, 3.65-3.91, 4.60, 8.17; MS (ESI+) for C8H12N2O2 m/z 201 (M+H)+.

reactant | methyl {[N-(tert-butoxycarbonyl)-L-alanyl]amino}(cyclopropyl)-acetate | 0.24 mmol, 72 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)NC(C(=O)OC)C1CC1 | C14H24N2O5
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | methyl (L-alanylamino)(cyclopropyl)acetate hydrochloride | 57 mg, 100% | Cl.N[C@@H](C)C(=O)NC(C(=O)OC)C1CC1 | InChI=1S/C9H16N2O3.ClH/c1-5(10)8(12)11-7(6-3-4-6)9(13)14-2;/h5-7H,3-4,10H2,1-2H3,(H,11,12);1H/t5-,7?;/m0./s1
